US06372759B1
F) 4-(tert-butyldimethylsilyloxy)-N1-(6-indolylcarbonyl)-N2-[1-(4-pyridyl)piperidin-4-yl]methoxycarbonyl-1,2-benzenediamine
A mixture of indole-6-carboxylic acid (71 mg, 0.44 mmol), bromotris(pyrrolidino)phosphonium hexafluorophosphate (204 mg, 0.44 mmol) and diisopropylethylamine (0.153 mL, 0.88 mmol) in dry methylene chloride (5 mL) was stirred 10 min. 4-(tert-Butyldimethylsilyloxy)-N2-[1-(4-pyridyl)piperidin-4-yl]methoxycarbonyl-1,2-benzenediamine (100 mg, 0.22 mmol) and N,N-dimethylformamide (2 mL) were added and the resulting mixture stirred 64 h at ambient temperature. Saturated aqueous sodium hydrogen carbonate solution (4 mL) was added, and the resultant mixture stirred for 30 min. The mixture was partitioned between ethyl acetate and water, the organic solution separated, dried (anhydrous magnesium sulfate), filtered, and concentrated in vacuo. The residue was chromatographed (silica gel, methylene chloride, 9:1 methylene chloride/methanol, 9:1:0.1 methylene chloride/methanol/ammonium hydroxide) to yield 55 mg (44%) of the title compound.

reactant | indole-6-carboxylic acid | 0.44 mmol, 71 mg | N1C=CC2=CC=C(C=C12)C(=O)O | C9H7NO2
reactant | bromotris(pyrrolidino)phosphonium hexafluorophosphate | 0.44 mmol, 204 mg | F[P-](F)(F)(F)(F)F.Br[P+](N1CCCC1)(N1CCCC1)N1CCCC1
reactant | diisopropylethylamine | 0.88 mmol, 0.153 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-(tert-Butyldimethylsilyloxy)-N2-[1-(4-pyridyl)piperidin-4-yl]methoxycarbonyl-1,2-benzenediamine | 0.22 mmol, 100 mg | [Si](C)(C)(C(C)(C)C)OC=1C=C(C(=CC1)N)NC(=O)OCC1CCN(CC1)C1=CC=NC=C1 | C24H36N4O3Si
reactant | sodium hydrogen carbonate | 4 mL | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 4-(tert-butyldimethylsilyloxy)-N1-(6-indolylcarbonyl)-N2-[1-(4-pyridyl)piperidin-4-yl]methoxycarbonyl-1,2-benzenediamine | 55 mg, 44% | [Si](C)(C)(C(C)(C)C)OC=1C=C(C(=CC1)NC(=O)C1=CC=C2C=CNC2=C1)NC(=O)OCC1CCN(CC1)C1=CC=NC=C1 | C33H41N5O4Si
